US09326987B2
6-Bromo-1-[(4-methylphenyl)sulfonyl]-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole
A stirred mixture of 6-bromo-4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-[(4-methylphenyl)sulfonyl]-1H-indazole (0.1 g, 0.214 mmol) and morpholine (0.056 ml, 0.641 mmol) in acetonitrile (2.5 ml) was heated at 80° C. in the microwave (biotage initiator) for 45 mins. The mixture was evaporated and the residual solid triturated with ether (10 ml) to afford the title compound as a cream coloured solid which was collected by filtration (0.07 g).

reactant | 6-bromo-4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-[(4-methylphenyl)sulfonyl]-1H-indazole | 0.214 mmol, 0.1 g | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)CCl | C17H12BrClN4O3S
reactant | morpholine | 0.641 mmol, 0.056 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | 6-Bromo-1-[(4-methylphenyl)sulfonyl]-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)CN1CCOCC1 | C21H20BrN5O4S
